US05840732
ii) Synthesis of 5-[3-(4-methoxyphenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a methanol solution of 1.08 g (2.3 mmol) of 5-[3-(4-methoxyphenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione, 0.8 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring. After the solvent was distilled off, the residue was dissolved in methanol and recrystallized from ether to yield 995 mg (85.6%, white crystal) of the desired product.

reactant | 5-[3-(4-methoxyphenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 2.3 mmol, 1.08 g | COC1=CC=C(C=C1)CCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C24H25N3O3S2
reactant | hydrochloric acid ethyl acetate | 4N, 0.8 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-[3-(4-methoxyphenyl)propylidene]-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.COC1=CC=C(C=C1)CCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C24H25N3O3S2.ClH/c1-30-19-12-10-18(11-13-19)6-4-7-20-23(28)27(24(29)32-20)15-2-3-17-31-22-9-5-8-21-25-14-16-26(21)22;/h5,7-14,16H,2-4,6,15,17H2,1H3;1H
